US07541467B2
Synthesis of N,N,N′,N′-tetrakis(6-methoxy-2-quinolylmethyl)-ethylenediamine (6OMeTQEN)
A mixture of 6-methoxy-2-bromomethylquinoline (0.076 g, 0.302 mmol), ethylenediamine (5 μL, 0.0755 mmol), potassium carbonate (0.125 g, 0.904 mmol) and acetonitrile (6 mL) was refluxed by heating for 14 hours. The solvent was evaporated under reduced pressure, and then the residue was separated by phase separation using chloroform and water. The organic layer was dried, and then the solvent was evaporated. The residue was washed with ethanol to obtain the objective compound as white powder (yield: 18.7 mg, 33%).

reactant | 6-methoxy-2-bromomethylquinoline | 0.302 mmol, 0.076 g | COC=1C=C2C=CC(=NC2=CC1)CBr | C11H10BrNO
reactant | ethylenediamine | 0.0755 mmol, 5 μL | C(CN)N | C2H8N2
reactant | potassium carbonate | 0.904 mmol, 0.125 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 6 mL | C(C)#N | C2H3N
product | N,N,N′,N′-tetrakis(6-methoxy-2-quinolylmethyl)-ethylenediamine | yield: 18.7 mg, 33% | COC=1C=C2C=CC(=NC2=CC1)CN(CCN(CC1=NC2=CC=C(C=C2C=C1)OC)CC1=NC2=CC=C(C=C2C=C1)OC)CC1=NC2=CC=C(C=C2C=C1)OC | C46H44N6O4
